US06645968B2
N″-cyano-N-(3-chlorophenyl)guanidine
3-Chloroaniline and sodium dicyanamide were processed as described in Example 71A to provide the desired compound.

reactant | 3-Chloroaniline | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | sodium dicyanamide | [N-](C#N)C#N.[Na+]
product | N″-cyano-N-(3-chlorophenyl)guanidine | C(#N)N=C(NC1=CC(=CC=C1)Cl)N | C8H7ClN4
